US07067541B2
(4-Aminomethyl-benzyl)-carbamic acid benzyl ester
A solution of 1,4-bis(aminomethyl)benzene (10.0 g, 74 mmol) and triethylamine (9.8 ml, 74 mmol) in dichloromethane (480 ml) was cooled to 0° C. and treated with a solution of benzylchloroformate (10.5 ml, 74 mmol) in dichloromethane (250 ml). The resulting mixture was allowed to warm gradually to room temperature of a period of 16 h. The solvent was removed in vacuo and the residue partitioned between ethyl acetate (450 ml) and 1M aqueous sodium hydroxide (300 ml). The resulting biphasic mixture was filtered and the organic phase separated, dried (magnesium sulfate) and reduced in vacuo to give a waxy solid. Trituration with hot ethyl acetate followed by concentration of the liquors gave the title compound as a waxy solid (7.4 g).

reactant | 1,4-bis(aminomethyl)benzene | 74 mmol, 10.0 g | NCC1=CC=C(C=C1)CN | C8H12N2
reactant | triethylamine | 74 mmol, 9.8 ml | C(C)N(CC)CC | C6H15N
reactant | benzylchloroformate | 74 mmol, 10.5 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 480 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | (4-Aminomethyl-benzyl)-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NCC1=CC=C(C=C1)CN)=O | C16H18N2O2
